US08105747B2
7.3 g of 1,1,1,3,3,3-hexafluoro-2-methyl-2-propanol, 0.2 g of 4-dimethylaminopyridine, 4.9 g of triethylamine and 20 g of acetone were charged into a four-necked flask equipped with a stirrer, a thermometer and a dropping funnel, and were dissolved by stirring. Then, 4.6 g of methacrylic acid chloride was dropwise added to the resulting solution at about 5° C. over 30 minutes, followed by stirring at the same temperature for 3 hours. Thereafter, the reaction solution was washed with water, thereby obtaining 7.5 g of 1,1,1,3,3,3-hexafluoro-2-methyl-2-propyl methacrylate. The 1H-NMR data of the obtained 1,1,1,3,3,3-hexafluoro-2-methyl-2-propyl methacrylate were as follows.

reactant | 1,1,1,3,3,3-hexafluoro-2-methyl-2-propanol | 7.3 g | FC(C(C(F)(F)F)(O)C)(F)F | C4H4F6O
reactant | triethylamine | 4.9 g | C(C)N(CC)CC | C6H15N
reactant | methacrylic acid chloride | 4.6 g | C(C(=C)C)(=O)Cl | C4H5ClO
catalyst | 4-dimethylaminopyridine | 0.2 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetone | 20 g | CC(=O)C | C3H6O
product | 1,1,1,3,3,3-hexafluoro-2-methyl-2-propyl methacrylate | 7.5 g | C(C(=C)C)(=O)OC(C(F)(F)F)(C(F)(F)F)C | C8H8F6O2
